US07935707B2
F) 5-Methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid
A stirred solution of 0.27 g of a mixture of 5-methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carbaldehyde and 5-methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid methyl ester (ca. 1:1) in 10 ml of THF/MeOH 1:1 was treated with 0.49 ml (0.5 mmol) of a LiOH solution (1.0 molar in H2O) and the mixture was stirred for 34 days at RT. It was then poured into crashed ice, acidified with HCl (1.0 N) and extracted twice with MeCl2; the organic phases were washed with water, dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography (CH2Cl2/MeOH 1:0 to 4:1) to give 0.056 g (ca. 22% over two steps) of the title compound, which has been used without further characterization.

reactant | 5-methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carbaldehyde | COC1=C(N(C(=N1)C1=CC(=CC=C1)OC(F)(F)F)C)C=O | C13H11F3N2O3
reactant | 5-methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1OC)C1=CC(=CC=C1)OC(F)(F)F)C | C14H13F3N2O4
reactant | LiOH | 0.5 mmol, 1.0 molar, 0.49 ml | [Li+].[OH-]
reactant | HCl | 1.0 N | Cl | ClH
solvent | THF MeOH | 10 ml | C1CCOC1.CO
product | 5-Methoxy-3-methyl-2-(3-trifluoromethoxy-phenyl)-3H-imidazole-4-carboxylic acid | COC1=C(N(C(=N1)C1=CC(=CC=C1)OC(F)(F)F)C)C(=O)O | C13H11F3N2O4
